* NGSPICE file created from mult4_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3b_1 abstract view
.subckt sky130_fd_sc_hd__and3b_1 A_N B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand4_1 abstract view
.subckt sky130_fd_sc_hd__nand4_1 A B C D VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4bb_1 abstract view
.subckt sky130_fd_sc_hd__and4bb_1 A_N B_N C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4_1 abstract view
.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or3b_1 abstract view
.subckt sky130_fd_sc_hd__or3b_1 A B C_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__mux2_1 abstract view
.subckt sky130_fd_sc_hd__mux2_1 A0 A1 S VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a211o_1 abstract view
.subckt sky130_fd_sc_hd__a211o_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor3_1 abstract view
.subckt sky130_fd_sc_hd__nor3_1 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21a_1 abstract view
.subckt sky130_fd_sc_hd__o21a_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21ba_1 abstract view
.subckt sky130_fd_sc_hd__o21ba_1 A1 A2 B1_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31o_1 abstract view
.subckt sky130_fd_sc_hd__a31o_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2b_1 abstract view
.subckt sky130_fd_sc_hd__nand2b_1 A_N B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or3_1 abstract view
.subckt sky130_fd_sc_hd__or3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor3b_1 abstract view
.subckt sky130_fd_sc_hd__nor3b_1 A B C_N VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_1 abstract view
.subckt sky130_fd_sc_hd__o211a_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

.subckt mult4_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9 A[0]
+ A[1] A[2] A[3] B[0] B[1] B[2] B[3] P[0] P[1] P[2] P[3] P[4] P[5] P[6] P[7] VGND
+ VPWR
X_83_ _30_ _31_ VGND VGND VPWR VPWR _33_ sky130_fd_sc_hd__xor2_1
XFILLER_3_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_49_ _01_ net1 net6 VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__and3b_1
X_66_ net1 net2 net8 net7 VGND VGND VPWR VPWR _17_ sky130_fd_sc_hd__nand4_1
XFILLER_3_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_82_ _29_ _31_ net8 net3 VGND VGND VPWR VPWR _32_ sky130_fd_sc_hd__and4bb_1
X_65_ net1 net2 net8 net7 VGND VGND VPWR VPWR _16_ sky130_fd_sc_hd__and4_1
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_48_ net5 net6 net1 net2 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__and4_1
XFILLER_0_36 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xoutput10 net10 VGND VGND VPWR VPWR P[1] sky130_fd_sc_hd__buf_2
X_81_ _10_ _16_ VGND VGND VPWR VPWR _31_ sky130_fd_sc_hd__xnor2_1
XFILLER_9_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_64_ _06_ _14_ VGND VGND VPWR VPWR _15_ sky130_fd_sc_hd__xor2_1
X_47_ net6 net2 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__nand2_1
Xoutput9 net9 VGND VGND VPWR VPWR P[0] sky130_fd_sc_hd__buf_2
Xoutput11 net11 VGND VGND VPWR VPWR P[2] sky130_fd_sc_hd__buf_2
X_80_ _29_ net3 net8 VGND VGND VPWR VPWR _30_ sky130_fd_sc_hd__and3b_1
X_63_ _08_ _12_ VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__xor2_1
XFILLER_3_26 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_46_ net5 net1 VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__and2_1
XFILLER_0_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
Xoutput12 net12 VGND VGND VPWR VPWR P[3] sky130_fd_sc_hd__buf_2
XFILLER_3_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_9_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_62_ _07_ _12_ _03_ VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__or3b_1
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput13 net13 VGND VGND VPWR VPWR P[4] sky130_fd_sc_hd__buf_2
X_61_ _11_ net6 _09_ VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__mux2_1
XFILLER_4_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xoutput14 net14 VGND VGND VPWR VPWR P[5] sky130_fd_sc_hd__buf_2
X_60_ net6 net4 VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__nand2_1
Xoutput15 net15 VGND VGND VPWR VPWR P[6] sky130_fd_sc_hd__buf_2
XFILLER_6_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_1_74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput16 net16 VGND VGND VPWR VPWR P[7] sky130_fd_sc_hd__buf_2
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_99_ _28_ _45_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__and2_1
X_98_ _05_ _27_ VGND VGND VPWR VPWR _45_ sky130_fd_sc_hd__or2_1
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_45 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_97_ _40_ _41_ _43_ _29_ VGND VGND VPWR VPWR net16 sky130_fd_sc_hd__a211o_1
XFILLER_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 A[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__dlymetal6s2s_1
XFILLER_1_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_1_68 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_96_ _43_ _44_ VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__nor2_1
X_79_ net8 net7 net4 net3 VGND VGND VPWR VPWR _29_ sky130_fd_sc_hd__and4_1
Xinput2 A[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__buf_1
XFILLER_7_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_95_ _36_ _39_ _42_ VGND VGND VPWR VPWR _44_ sky130_fd_sc_hd__nor3_1
Xinput3 A[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__clkbuf_2
XFILLER_1_37 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_78_ _26_ _28_ VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__xnor2_1
XFILLER_7_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_94_ _36_ _39_ _42_ VGND VGND VPWR VPWR _43_ sky130_fd_sc_hd__o21a_1
Xinput4 A[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__dlymetal6s2s_1
XFILLER_6_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_77_ _05_ _27_ VGND VGND VPWR VPWR _28_ sky130_fd_sc_hd__nand2_1
XFILLER_8_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_93_ _40_ _41_ VGND VGND VPWR VPWR _42_ sky130_fd_sc_hd__xor2_1
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_76_ _20_ _23_ VGND VGND VPWR VPWR _27_ sky130_fd_sc_hd__xor2_1
Xinput5 B[0] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__buf_1
XFILLER_7_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_7_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_59_ net5 net6 net4 net3 VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__and4_1
XFILLER_2_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_92_ _10_ _16_ _32_ VGND VGND VPWR VPWR _41_ sky130_fd_sc_hd__a21o_1
X_58_ net5 net4 net3 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__and3_1
Xinput6 B[1] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__dlymetal6s2s_1
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_75_ _15_ _24_ VGND VGND VPWR VPWR _26_ sky130_fd_sc_hd__xnor2_1
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_91_ net8 net4 _06_ VGND VGND VPWR VPWR _40_ sky130_fd_sc_hd__and3_1
XFILLER_4_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput7 B[2] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__buf_1
X_74_ _24_ _15_ VGND VGND VPWR VPWR _25_ sky130_fd_sc_hd__and2b_1
XFILLER_2_40 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_57_ net2 net8 _03_ VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__and3_1
X_90_ _37_ _38_ VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__xor2_1
Xinput8 B[3] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__clkbuf_2
XFILLER_2_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_73_ _20_ _23_ _18_ VGND VGND VPWR VPWR _24_ sky130_fd_sc_hd__o21ba_1
X_56_ net2 net8 VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__nand2_1
X_72_ net4 net3 _22_ _21_ VGND VGND VPWR VPWR _23_ sky130_fd_sc_hd__a31o_1
X_55_ net7 net3 VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_75 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_8_74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_54_ _02_ _03_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__xnor2_1
X_71_ net5 net6 VGND VGND VPWR VPWR _22_ sky130_fd_sc_hd__nand2b_1
XFILLER_8_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_70_ net5 net4 net3 VGND VGND VPWR VPWR _21_ sky130_fd_sc_hd__a21oi_1
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_53_ _04_ VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__inv_2
XFILLER_2_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_5_44 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_52_ net9 _00_ _03_ VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__or3_1
XFILLER_2_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_51_ net1 net7 VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__nand2_1
XFILLER_4_9 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_45 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_50_ net9 _00_ VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__nor2_1
XFILLER_2_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_3_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_89_ _24_ _35_ _15_ VGND VGND VPWR VPWR _39_ sky130_fd_sc_hd__nor3b_1
X_88_ _05_ _26_ _27_ _25_ VGND VGND VPWR VPWR _38_ sky130_fd_sc_hd__a31o_1
XFILLER_8_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_87_ _35_ _36_ VGND VGND VPWR VPWR _37_ sky130_fd_sc_hd__nor2_1
XFILLER_9_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_86_ _33_ _34_ VGND VGND VPWR VPWR _36_ sky130_fd_sc_hd__nor2_1
XFILLER_3_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_69_ _18_ _19_ VGND VGND VPWR VPWR _20_ sky130_fd_sc_hd__nand2b_1
XFILLER_9_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_85_ _06_ _14_ _33_ _13_ VGND VGND VPWR VPWR _35_ sky130_fd_sc_hd__o211a_1
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_68_ net1 net8 _17_ _01_ VGND VGND VPWR VPWR _19_ sky130_fd_sc_hd__a31o_1
XFILLER_0_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_84_ _06_ _14_ _13_ VGND VGND VPWR VPWR _34_ sky130_fd_sc_hd__o21a_1
XFILLER_3_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_67_ net1 net8 _01_ _17_ VGND VGND VPWR VPWR _18_ sky130_fd_sc_hd__and4_1
XFILLER_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_9_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

